US09290591B2
In air, 2-pyridinecarboxaldehyde (0.185 g, 0.164 mL, 1.72 mmol, 1.00 equiv) was added to a solution of 2-methyl-1-phenylpropan-1-amine (0.257 g, 1.72 mmol, 1.00 equiv) in CH2Cl2 (8 mL). After heating at reflux for 2 h with azeotropic removal of water using a Dean-Stark trap, the reaction mixture was concentrated under reduced pressure and dried under high vacuum to give ligand (L-1), (E)-2-Methyl-1-phenyl-N-(pyridin-2-ylmethylene)propan-1-amine, as a yellow oil (0.379 g, 92% yield).

reactant | 2-pyridinecarboxaldehyde | 1.72 mmol, 0.164 mL, 0.185 g, 1.00 equiv | N1=C(C=CC=C1)C=O | C6H5NO
reactant | 2-methyl-1-phenylpropan-1-amine | 1.72 mmol, 0.257 g, 1.00 equiv | CC(C(N)C1=CC=CC=C1)C | C10H15N
reactant | water | O | H2O
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | (E)-2-Methyl-1-phenyl-N-(pyridin-2-ylmethylene)propan-1-amine | CC(C(/N=C/C1=NC=CC=C1)C1=CC=CC=C1)C | C16H18N2
